US03989841
Methyl 7-Methoxyfluorene-2-acetic acid
A mixture of 59mg. of methyl 7-hydroxyfluorene-2-acetic acid, 1.3g. of potassium carbonate, and 0.5ml. methyl iodide in 11ml. of acetone is refluxed for 22 hr., filtered and the solid washed with additional acetone. The filtrate is evaporated and the residue plate chromatographed on silica gel employing chloroform-hexane (2:1) as the developing solvent. Elution of the least polar band with ethyl acetate, evaporation and crystallization of the residue from ethyl acetate-isopropyl ether gives 17mg. of the title compound, mp 114-115°. Recrystallization from ethyl acetate-isopropyl ether gives the analytical sample, mp 114.5°-115.5°; λKBr 5.80μ.

reactant | methyl 7-hydroxyfluorene-2-acetic acid | CC1=C(C=CC=2C3=CC=C(C=C3CC12)O)CC(=O)O | C16H14O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | CI | CH3I
solvent | acetone | CC(=O)C | C3H6O
product | Methyl 7-Methoxyfluorene-2-acetic acid | CC1=C(C=CC=2C3=CC=C(C=C3CC12)OC)CC(=O)O | C17H16O3
